US07429583B2
d) ethyl (2-methoxy-6-nitro-phenyl)-carbamate
17.1 mL (0.141 mol) trichloromethylchloroformate are added dropwise at reflux temperature to a solution of 23.8 g (0.142 mol) 2-methoxy-6-nitro-phenylamine in 300 mL THF and then the mixture is stirred for 4 hours at this temperature. The solvent is distilled off and the residue is stirred with isopropanol, during which time a yellow solid is precipitated. Yield: 25.0 g (73%); mass spectroscopy: [M+H]+=241.

reactant | trichloromethylchloroformate | 0.141 mol, 17.1 mL | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
reactant | 2-methoxy-6-nitro-phenylamine | 0.142 mol, 23.8 g | COC1=C(C(=CC=C1)[N+](=O)[O-])N | C7H8N2O3
reactant | THF | 300 mL | C1CCOC1 | C4H8O
product | ethyl (2-methoxy-6-nitro-phenyl)-carbamate | COC1=C(C(=CC=C1)[N+](=O)[O-])NC(OCC)=O | C10H12N2O5
